US05569768
5-(2-Cyanophenyl)-2-methylbenzimidazole (3.43 mmoles, 0.8 g) was dissolved in DMF. Sodium hydride (3.75 mmoles, 0.15 g.) was added. The solution was stirred for 30 minutes. Ethyl 2-bromooctanoate was added. The solution was stirred for 1 hour. Water and ethyl acetate were added; and the layers separated. The organic phase was washed with brine, dried over sodium sulfate and concentrated. The intermediate was chromatographed on silica gel eluted with 50% ethyl acetate in hexane to yield 1.0 g of ethyl 2-[5-[2-cyanophenyl]-2-methyl-1H-benzimidazol-1-yl]octanoate. The nitrile was dissolved in 10 ml of tributyltinazide and heated at 70° C. for 3 days. The solution was stirred in a mixture of acetonitrile, water, and acetic acid (100 ml of 8:1:1) for 3 hours, washed with hexane (4×250 ml), and concentrated. The residue was dissolved in ethyl acetate, washed with water, dried over sodium sulfate and concentrated in vacuo. The intermediate was triturated with hexane, filtered and chromatographed over silica gel eluted with 10% ethanol in ethyl acetate with 1% acetic acid. The isomers were separated by reverse phase HPLC eluted with a gradient of 30-50% acetonitrile in water with 1% ammonium acetate. The intermediate was dissolved in ethanol (20 ml) and 5N NaOH (5 ml) and heated on a steam bath for 1 hour. The solution was concentrated to 75 ml. The pH was adjusted to 3.0 using 5N HCl. The precipitate was collected and dried. The reaction yielded 110 mg of 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-2-methyl-1H-benzimidazol-1-yl]octanoic acid. (MS)

reactant | 5-(2-Cyanophenyl)-2-methylbenzimidazole | 3.43 mmoles, 0.8 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(N=C(N2)C)C=C1 | C15H11N3
reactant | Sodium hydride | 3.75 mmoles, 0.15 g | [H-].[Na+]
reactant | Ethyl 2-bromooctanoate | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[5-[2-cyanophenyl]-2-methyl-1H-benzimidazol-1-yl]octanoate | 1.0 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(N(C(=N2)C)C(C(=O)OCC)CCCCCC)C=C1 | C25H29N3O2
